US07732466B2
(e) 5-chloro-thiophene-2-carboxylic acid-N-{1-[3-chloro-4-(pyrrolidin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide
Prepared analogously to Example 1a from 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid and 3-chloro-4-(pyrrolidin-1-yl-carbonyl)-aniline with TBTU and NMM in DMF.

reactant | 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionic acid | ClC1=CC=C(S1)C(=O)NC(C(=O)O)C | C8H8ClNO3S
reactant | 3-chloro-4-(pyrrolidin-1-yl-carbonyl)-aniline | ClC=1C=C(N)C=CC1C(=O)N1CCCC1 | C11H13ClN2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid-N-{1-[3-chloro-4-(pyrrolidin-1-yl-carbonyl)-phenylcarbamoyl]-ethyl}-amide | ClC=1C=C(C=CC1C(=O)N1CCCC1)NC(=O)C(C)NC(=O)C=1SC(=CC1)Cl | C19H19Cl2N3O3S
